US09340527B2
To a solution of methyl 1-((6-methoxyquinazolin-2-yl)methyl)piperidine-4-carboxylate (3.0 g, 9.5 mmol) in DCM (15 mL) was added BBr3 (9.5 mmol, 1.0 eq) at 0° C. under N2. The reaction was stirred at room temperature for 16 h. After the removal of solvent, SOCl2 (2.8 g, 0.238 mol, 1.5 eq) and MeOH (20 mL) was added at 0° C. The mixture was refluxed at 80° C. for 3 h, poured into the NaHCO3 aqueous solution and extracted with DCM (100 mL*3). The combined extracts were dried over anhydrous Na2SO4 and evaporated to dryness in vacuum. The crude product was purified by chromatography (eluting with DCM/MeOH=25/1) to give methyl 1-((6-hydroxyquinazolin-2-yl)methyl)piperidine-4-carboxylate (1.7 g, yield: 77%) as a yellow solid. 1HNMR (400 MHz, DMSO-d6) δ: 10.36 (s, 1H), 9.35 (s, 1H), 7.84 (d, J=9.2 Hz, 1H), 7.51 (dd, J=9.2, 2.4 Hz, 1H), 7.25 (d, J=2.4 Hz, 1H), 3.74 (s, 2H), 3.57 (s, 3H), 2.86˜2.84 (m, 2H), 2.27 (m, 1H), 2.16 (m, 2H), 1.77 (m, 2H), 1.56 (m, 2H); ESI-MS: m/z 302.1 ([M+1]+).

reactant | methyl 1-((6-methoxyquinazolin-2-yl)methyl)piperidine-4-carboxylate | 9.5 mmol, 3.0 g | COC=1C=C2C=NC(=NC2=CC1)CN1CCC(CC1)C(=O)OC | C17H21N3O3
reactant | BBr3 | 9.5 mmol, 1.0 eq | B(Br)(Br)Br | BBr3
reactant | SOCl2 | 0.238 mol, 2.8 g, 1.5 eq | O=S(Cl)Cl | Cl2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 mL | CO | CH4O
product | methyl 1-((6-hydroxyquinazolin-2-yl)methyl)piperidine-4-carboxylate | 1.7 g, yield: 77% | OC=1C=C2C=NC(=NC2=CC1)CN1CCC(CC1)C(=O)OC | C16H19N3O3
